US07851465B2
(Z)-7-Chloro-5-(4-methoxyphenyl)-1-methyl-1H-benzo[e][1,4]diazepin-2(3H)-one.
In a 1 L 3-neck RBF equipped with magnetic stir bar, condenser, thermocouple, and N2 inlet, crude (E)-5,7-dichloro-1-methyl-1H-benzo[e][1,4]diazepin-2(3H)-one (30 g, 0.124 mol) was dissolved into 300 mL of DME. To this was added a solution of Na2CO3 (21 g, 0.2 mol in 200 mL of H2O) followed by addition of 4-methoxyphenyl boronic acid (22 g, 0.145 mol) and Pd(PPh3)4 (1.2 g, 8.3 mmol). The reaction mixture was heated in a 85° C. oil bath, under N2, for 2 h and then cool to room temp. To this was added 200 mL of EtOAc and the mixture stirred for 5 min. The organic layer was separated and washed with H2O (200 mL) and brine (200 mL). Organic layer was dried over MgSO4 and then concentrated to dryness to give 53 g of crude product. This was subjected to silica chromatography using 210 g of silica gel and EtOAc/hepatene (12:88 to 30:70 to 50:50 to 70:30; total of 8 L mobile phase). Fractions containing pure product were combined and concentrated to dryness to give 42.7 g of pure product (quantitative). 1H NMR (300 MHz, CDCl3) δ 3.38 (s, 3H), 3.73 (d, 1H), 3.85 (s, 3H), 4.75 (d, 1H), 6.9 (m, 2H), 7.31 (m, 2H), 7.48-7.58 (m, 3H).

reactant | (E)-5,7-dichloro-1-methyl-1H-benzo[e][1,4]diazepin-2(3H)-one | 0.124 mol, 30 g | Cl/C=1/C2=C(N(C(C\N1)=O)C)C=CC(=C2)Cl | C10H8Cl2N2O
reactant | DME | 300 mL | COCCOC | C4H10O2
reactant | Na2CO3 | 0.2 mol, 200 mL, 21 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-methoxyphenyl boronic acid | 0.145 mol, 22 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
catalyst | Pd(PPh3)4 | 8.3 mmol, 1.2 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | (Z)-7-Chloro-5-(4-methoxyphenyl)-1-methyl-1H-benzo[e][1,4]diazepin-2(3H)-one | 42.7 g | ClC1=CC\2=C(N(C(C\N=C2\C2=CC=C(C=C2)OC)=O)C)C=C1 | C17H15ClN2O2
